US09168247B2
Synthesis of Compound CV12 (See Table 1): 1-methyl-7-cyclohexylmethyloxy-9-cyclohexylmethyl-β-carboline
The title compound was synthesized from 1-methyl-7-hydroxy-β-carboline (0.5 g, 1.587 mmol) in presence of 1-bromomethylcyclohexane (1.240 g, 3.173 mmol) as described here above.

reactant | 1-methyl-7-hydroxy-β-carboline | 1.587 mmol, 0.5 g | CC1=NC=CC=2C3=CC=C(C=C3NC12)O | C12H10N2O
reactant | 1-bromomethylcyclohexane | 3.173 mmol, 1.240 g | BrCC1CCCCC1 | C7H13Br
product | 1-methyl-7-cyclohexylmethyloxy-9-cyclohexylmethyl-β-carboline | Yield=75% | CC1=NC=CC=2C3=CC=C(C=C3N(C12)CC1CCCCC1)OCC1CCCCC1 | C26H34N2O
